US07612067B2
Preparation of 3-[3-Chloro-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-8-(1-ethyl-propyl)-6-methyl-2-trifluoromethyl-imidazo[1,2-b]pyridazine
In a dry 25 mL round bottom flask, 8-(1-ethyl-propyl)-6-methyl-2-trifluoromethyl-imidazo[1,2-b]pyridazine (182 mg, 0.671 mmol), 5-(5-bromo-4-chloro-thiophen-2-yl)-1-methyl-1H-[1,2,4]triazole (225 mg, 0.805 mmol), KOAc (330.2 mg, 3.36 mmol), and TBAB (217 mg, 0.671 mmol) are dissolved in NMP (3 mL). The mixture is degassed with bubbling nitrogen for 20 minutes. Then, Pd(OAc)2 (8 mg, 0.034 mmol) and TDBPP (20.4 g, 0.34 moles) are added. The reaction mixture is heated to 125° C. for 3 hours to give the title compound (125 mg, 0.267 mmol, 40%). 1H-NMR (CDCl3), δ 0.88 (t, J=7.2 Hz, 6H), 1.87 (m, 4H), 2.537 (s, 3H), 3.32 (m, 1H), 4.16 (s, 3H), 6.86 (s, 1H), 7.51 (s, 1H), 7.91 (s, 1H) ppm. ES-MS (m/z): calcd for C20H20ClF3N6S (M+H)+: 468.93; found: 469.2.

reactant | 8-(1-ethyl-propyl)-6-methyl-2-trifluoromethyl-imidazo[1,2-b]pyridazine | 0.671 mmol, 182 mg | C(C)C(CC)C=1C=2N(N=C(C1)C)C=C(N2)C(F)(F)F | C13H16F3N3
reactant | 5-(5-bromo-4-chloro-thiophen-2-yl)-1-methyl-1H-[1,2,4]triazole | 0.805 mmol, 225 mg | BrC1=C(C=C(S1)C1=NC=NN1C)Cl | C7H5BrClN3S
reactant | KOAc | 3.36 mmol, 330.2 mg | CC(=O)[O-].[K+]
reactant | TDBPP | 0.34 moles, 20.4 g | C(C(CBr)Br)OP(=O)(OCC(CBr)Br)OCC(CBr)Br | C9H15Br6O4P
catalyst | TBAB | 0.671 mmol, 217 mg | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | NMP | 3 mL | CN1CCCC1=O | C5H9NO
catalyst | Pd(OAc)2 | 0.034 mmol, 8 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-[3-Chloro-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-8-(1-ethyl-propyl)-6-methyl-2-trifluoromethyl-imidazo[1,2-b]pyridazine | 0.267 mmol, 125 mg, 40% | ClC1=C(SC(=C1)C=1N(N=CN1)C)C1=C(N=C2N1N=C(C=C2C(CC)CC)C)C(F)(F)F | C20H20ClF3N6S
